US05994390
(±)-trans-7-Hydroxy-3-(4-fluorophenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane
A mixture of anhydrous pyridine hydrochloride (0.289 g, 2.50 mmol) and (±)-trans-3-(4-fluorophenyl)-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane (0.11 g, 0.25 mmol) was heated to 135° C. for 18 h. The resulting dark brown solid was dissolved in a mixture of methanol (10 ml), water (50 ml) and sodium hydrogen carbonate solution (5 ml), and the product extracted into 9:1 dichloromethane /methanol (3×50 ml). The combined extracts were washed with brine, dried over magnesium sulfate and evaporated to an orange gum. The product was purified by column chromatography on silica gel 60, with 5% methanol in dichloromethane eluent, giving the purified product as a colourless wax.

reactant | pyridine hydrochloride | 2.50 mmol, 0.289 g | Cl.N1=CC=CC=C1
reactant | (±)-trans-3-(4-fluorophenyl)-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane | 0.25 mmol, 0.11 g | FC1=CC=C(C=C1)[C@@H]1COC2=CC(=CC=C2[C@H]1C1=CC=C(C=C1)OCCN1CCCC1)OC | C28H30FNO3
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
solvent | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
product | (±)-trans-7-Hydroxy-3-(4-fluorophenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)-chromane | OC1=CC=C2[C@H]([C@@H](COC2=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OCCN1CCCC1 | C27H28FNO3
